US06376678B1
N-(tert-Butoxycarbonyl)-N′-[4-(pyridin-2-yl)phenylmethylidene]hydrazine (20 g, 67.3 mmol), isopropyl alcohol (80 ml) and palladium-carbon (1 g) were charged in a 300 ml four-necked flask and hydrogen was added at 50° C. under atmospheric pressure. Hydrogen was continuously added for 8 hr under the same conditions. The reaction mixture was filtered to remove the catalyst. After 90% of isopropyl alcohol in the obtained filtrate was evaporated by concentration, the same volume of heptane was added. The mixture was cooled with stirring and crystals were precipitated at around 40° C. The mixture was further cooled to 5° C. with stirring and the precipitated crystals were collected by filtration and dried to give 16.91 g of tert-butyl3-[4-(pyridin-2-yl)benzyl]carbazate as white crystals. The yield was 84.0% of N-(tert-butoxycarbonyl)-N′-[4-5 (pyridin-2-yl )phenylmethylidene]hydrazine

reactant | N-(tert-Butoxycarbonyl)-N′-[4-(pyridin-2-yl)phenylmethylidene]hydrazine | 67.3 mmol, 20 g | C(C)(C)(C)OC(=O)NN=CC1=CC=C(C=C1)C1=NC=CC=C1 | C17H19N3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 1 g | [C].[Pd]
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
product | tert-butyl3-[4-(pyridin-2-yl)benzyl]carbazate | 16.91 g | C(C)(C)(C)OC(NNCC1=CC=C(C=C1)C1=NC=CC=C1)=O | C17H21N3O2
